US05576453
Di(2-propyl)octyloxysilane was prepared in the following manner. Dry octanol (52.5 g, 0.40 mole) and dry pyridine (32.9 g, 0.42 mole) were added to a 500 ml round-bottom flask. The solution was cooled to -5° C. with stirring. Di(2-propyl)chlorosilane (67.1 g, 0.44 mole) was added in a dropwise fashion over 60 minutes. After this addition, the temperature of the reaction mixture was maintained at -5° C. for another 30 minutes, then allowed to come to room temperature overnight. Hexane (100 ml) was then added to this reaction mixture. The organic phase was extracted with 500 ml 0.1N aq. HCl and 500 ml water. The organic layer was dried over anhydrous magnesium sulfate, filtered and distilled to produce di(2-propyl)octyloxysilane.

reactant | octanol | 0.40 mole, 52.5 g | C(CCCCCCC)O | C8H18O
reactant | pyridine | 0.42 mole, 32.9 g | N1=CC=CC=C1 | C5H5N
reactant | Di(2-propyl)chlorosilane | 0.44 mole, 67.1 g | CC(C)[SiH](Cl)C(C)C | C6H15ClSi
solvent | Hexane | 100 ml | CCCCCC | C6H14
product | di(2-propyl)octyloxysilane | CC(C)[SiH](OCCCCCCCC)C(C)C | C14H32OSi
